US06747023B1
1-Benzylpiperazine hydrochloride
To 1-benzyl-4-tert-butoxycarbonylpiperazine (3.12 g), saturated ethanol hydrochloride was added, followed by stirring for 90 minutes at room temperature. The solvent was distilled off under reduced pressure, followed by drying, whereby the title compound (2.73 g, 97%) was obtained as white powder.

reactant | 1-benzyl-4-tert-butoxycarbonylpiperazine | 3.12 g | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | ethanol hydrochloride | Cl.C(C)O
product | 1-Benzylpiperazine hydrochloride | 2.73 g, 97% | Cl.C(C1=CC=CC=C1)N1CCNCC1 | InChI=1S/C11H16N2.ClH/c1-2-4-11(5-3-1)10-13-8-6-12-7-9-13;/h1-5,12H,6-10H2;1H
